US03932452
1-(Diphenylmethyl)-2-imidazolidinone
A 21.5 g (0.25 mole) portion of 2-imidazolidinone in 250 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of K2CO3, 20 g (0.12 mole) of KI and 50.8 g (0.25 mole) of benzhydryl chloride. The reaction mixture was heated with rapid stirring to 100° over 0.3 hr, held at 100° for 1.5 hours and poured into 1.5 l of H2O. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 500 ml of H2O, dried over MgSO4 overnight and filtered. The filtrate was concentrated to dryness under reduced pressure leaving 27 g (43%) of a semi-solid. The crude product was washed with 100 ml of ether, air dried and dried at 60° for 2 hours to give 19 g (30%) of a white solid, m.p. 200°-202°. Recrystallization from acetonitrile provided an analytical sample, m.p. 201°-203°.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.25 mole, 34.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzhydryl chloride | 0.25 mole, 50.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
reactant | H2O | 1.5 l | O | H2O
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-(Diphenylmethyl)-2-imidazolidinone | 27 g, 43% | C1(=CC=CC=C1)C(N1C(NCC1)=O)C1=CC=CC=C1 | C16H16N2O
